### PR TITLE
[Merged by Bors] - feat(Data/List/SplitLengths): splitting a list to chunks of given sizes

### PR DESCRIPTION
**Pull request by Command-Master**
---

Currently this uses `List.sum`, but it could also use `Nat.sum`. What's better?

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by kim-em** [comment]
> Currently this uses `List.sum`, but it could also use `Nat.sum`. What's better?


`List.sum` is fine!

File: Mathlib/Data/List/SplitLengths.lean [hunk 1]
```diff
@@ -0,0 +1,80 @@
...
+
+This file defines splitting a list to chunks of given lengths, and some proofs about that.
+-/
+
+variable {α : Type*} (l : List α) (sz : List ℕ)
+
+/--
+Split a list to chunks of given lengths.
+-/
+def List.splitLengths : List α → List ℕ → List (List α)
```
Comment (kim-em) [inline Mathlib/Data/List/SplitLengths.lean:21]: I would suggest swapping the arguments. Given a list of lengths this is then a nice operator `List a \to List (List a)`. Also the fact that's the way the induction runs!

**Comment by kim-em** [comment]
One could prove stronger theorems. As long as the partial sums are big enough, the getElems have the right length.

**Comment by Command-Master** [comment]
> One could prove stronger theorems. As long as the partial sums are big enough, the getElems have the right length.
> 
> One could even prove an unconditional result about the length of the i-th part, as a minimum.
> 
> (I wouldn't say these are strictly essential for this PR, but I do have a slight preference for getting the complete API in on the first go.)

Isn't that `List.splitLengths_map_length`?

**Comment by kim-em** [comment]
> > One could prove stronger theorems. As long as the partial sums are big enough, the getElems have the right length.
> > One could even prove an unconditional result about the length of the i-th part, as a minimum.
> > (I wouldn't say these are strictly essential for this PR, but I do have a slight preference for getting the complete API in on the first go.)
> 
> Isn't that `List.splitLengths_map_length`?

No, because that is only valid with the condition `l.length = sz.sum`. I want the unconditional lemmas.

**Comment by kim-em** [comment]
@Command-Master any further thoughts on this one?

File: Mathlib/Data/List/SplitLengths.lean [hunk 2]
```diff
@@ -0,0 +1,80 @@
...
+
+/-!
+# Splitting a list to chunks of specified lengths
+
+This file defines splitting a list to chunks of given lengths, and some proofs about that.
+-/
+
+variable {α : Type*} (l : List α) (sz : List ℕ)
+
+/--
```
Comment (YaelDillies) [inline Mathlib/Data/List/SplitLengths.lean:18]:
```suggestion
namespace List

/--
```
maybe?

**Comment by Command-Master** [comment]
> @Command-Master any further thoughts on this one?

My apologies, I missed this. I still don't quite understand what statement are you looking for. Is it `(sz.take i).sum <= l.length -> (sz.splitLengths l)[i].length = sz[i]`?

**Comment by YaelDillies** [comment]
> Currently this uses `List.sum`, but it could also use `Nat.sum`. What's better?

The latter is soon going away,it seems

**Comment by kim-em** [comment]
> > @Command-Master any further thoughts on this one?
> 
> My apologies, I missed this. I still don't quite understand what statement are you looking for. Is it `(sz.take i).sum <= l.length -> (sz.splitLengths l)[i].length = sz[i]`?

Yes.

File: Mathlib/Data/List/SplitLengths.lean [hunk 3]
```diff
@@ -0,0 +1,109 @@
...
+
+@[simp]
+lemma splitLengths_nil : [].splitLengths l = [] := rfl
+
+@[simp]
+lemma splitLengths_cons (n : ℕ) :
+    (n :: sz).splitLengths l = l.take n :: sz.splitLengths (l.drop n) := by
+  simp [splitLengths]
+
+theorem take_splitLength (i : ℕ) : (sz.splitLengths l).take i = (sz.take i).splitLengths l := by
```
Comment (Command-Master) [inline Mathlib/Data/List/SplitLengths.lean:44]: Should this be `@[simp]` (or maybe in the other direction)?

File: Mathlib/Data/List/SplitLengths.lean [hunk 4]
```diff
@@ -0,0 +1,108 @@
...
+-/
+def splitLengths : List ℕ → List α → List (List α)
+  | [], _ => []
+  | n::ns, x =>
+    let (x0, x1) := x.splitAt n
+    x0 :: ns.splitLengths x1
+
+@[simp]
+theorem length_splitLengths :
+    (sz.splitLengths l).length = sz.length := by
```
Comment (vihdzp) [inline Mathlib/Data/List/SplitLengths.lean:30]:
```suggestion
theorem length_splitLengths : (sz.splitLengths l).length = sz.length := by
```

File: Mathlib/Data/List/SplitLengths.lean [hunk 5]
```diff
@@ -0,0 +1,108 @@
...
+  induction sz generalizing l
+  · simp [splitLengths]
+  · simp [splitLengths, ‹∀ (l : List α), _›]
```
Comment (vihdzp) [inline Mathlib/Data/List/SplitLengths.lean:33]: Out of curiosity, what's `‹∀ (l : List α), _›` accomplishing here?

File: Mathlib/Data/List/SplitLengths.lean [hunk 6]
```diff
@@ -0,0 +1,108 @@
...
+-/
+
+variable {α : Type*} (l : List α) (sz : List ℕ)
+
+namespace List
+
+/--
+Split a list to chunks of given lengths.
+-/
+def splitLengths : List ℕ → List α → List (List α)
```
Comment (vihdzp) [inline Mathlib/Data/List/SplitLengths.lean:22]: Perhaps a minor detail, but I think it'd make more sense for the `List α` argument to go first. That way `l.splitLengths m` is "split `l` according to `m`" rather than the other way around.

File: Mathlib/Data/List/SplitLengths.lean (hunk 3 above)
Comment (vihdzp) [reply Mathlib/Data/List/SplitLengths.lean:43]: I don't really see either direction being simpler, so maybe it's better to leave this un-simped if there's nothing for it to simplify.

File: Mathlib/Data/List/SplitLengths.lean (hunk 5 above)
Comment (Command-Master) [reply Mathlib/Data/List/SplitLengths.lean:33]: It's adding the induction hypothesis to the `simp`

File: Mathlib/Data/List/SplitLengths.lean (hunk 6 above)
Comment (Command-Master) [reply Mathlib/Data/List/SplitLengths.lean:22]: That's how it was originally, but Kim suggested swapping it because
> Given a list of lengths this is then a nice operator List a \to List (List a). Also the fact that's the way the induction runs!

File: Mathlib/Data/List/SplitLengths.lean (hunk 5 above)
Comment (vihdzp) [reply Mathlib/Data/List/SplitLengths.lean:32]: Would it be cleaner to use the `induction ... with` syntax to name the inductive hypothesis explicitly?

File: Mathlib/Data/List/SplitLengths.lean [hunk 7]
```diff
@@ -0,0 +1,103 @@
...
+theorem flatten_splitLengths (h : l.length ≤ sz.sum) : (sz.splitLengths l).flatten = l := by
+  induction sz generalizing l
+  · simp_all
+  case cons head tail ih =>
+    simp only [splitLengths_cons, flatten_cons]
+    rw [ih, take_append_drop]
+    simpa [add_comm] using h
+
+theorem splitLengths_map_length (h : sz.sum ≤ l.length) :
+    (sz.splitLengths l).map length = sz := by
```
Comment (YaelDillies) [inline Mathlib/Data/List/SplitLengths.lean:67]:
```suggestion
theorem map_splitLengths_length (h : sz.sum ≤ l.length) :
    (sz.splitLengths l).map length = sz := by
```
maybe?

**Review by YaelDillies — APPROVED** [review]
Looks good to me. @kim-em, anything else you want to see here?

maintainer merge

**Comment by kim-em** [comment]
Thanks, this is great now!

bors merge
